US05273988
Preparation of 6-fluoro-2-mecapto-benzoxazole
2-Amino-5-fluorophenol [CAS:53981-24-1] (18.4 g) in 100 ml of water was stirred at room temperature while thiophosgene (16.8 g) was added dropwise as a solution in 100 ml of diethyl ether at such a rate that the resultant exotherm was controlled.

reactant | 2-Amino-5-fluorophenol | 18.4 g | NC1=C(C=C(C=C1)F)O | C6H6FNO
reactant | thiophosgene | 16.8 g | C(=S)(Cl)Cl | CCl2S
solvent | water | 100 ml | O | H2O
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
product | 6-fluoro-2-mecapto-benzoxazole | FC1=CC2=C(N=C(O2)S)C=C1 | C7H4FNOS
